US06011050
2-[1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione was prepared by the procedure of Example 5 from 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethylamine (1.0 g, 3.2 mmol), sodium hydrogen carbonate (281 mg, 3.34 mmol) and N-ethoxycarbonyl phthalimide (732 mg, 3.3 mmol) in acetonitrile and water (4 mL each). The product was obtained as a white solid (314 mg, 22% yield): mp, 173.0-175.0 ° C.; 1H NMR (CDCl3); δ 1.61-2.05 (m, 8H, C5H8), 2.84 (s, 3H, CH3), 3.80 (dd, J=4.9, 14.4 Hz, 1H, CHH), 3.83 (s, 3H, CH3), 4.54 (dd, J=9.9, 14.4 Hz, 1H, CHH), 4.77-4.82 (m, 1H, OCH), 5.90 (dd, J=4.9, 9.9 Hz, 1H, NCH), 6.82 (d, J=8.3 Hz, 1H, Ar), 7.09-7.17 (m, 2H, Ar), 7.69-7.75 (m, 2H, Ar), 7.81-7.86 (m, 2H, Ar); 13C NMR (CDCl3) δ 24.08, 32.77, 41.53, 48.98, 54.99, 56.03, 80.59, 111.92, 114.57, 120.37, 123.55, 129.55, 131.67, 134.20, 148.02, 150.38, 167.82; Anal Calcd for C23H25NO6S+0.1 CH2Cl2 : C, 61.38; H, 5,62; N, 3.10. Found: C, 61.05; H, 5.60; N, 2.96.

reactant | 1-(3-cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 3.2 mmol, 1.0 g | C1(CCCC1)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C15H23NO4S
reactant | sodium hydrogen carbonate | 3.34 mmol, 281 mg | C(O)([O-])=O.[Na+]
reactant | N-ethoxycarbonyl phthalimide | 3.3 mmol, 732 mg | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 4 mL | O | H2O
product | 2-[1-(3-Cyclopentyloxy-4-methoxyphenyl)-2-methylsulfonylethyl]isoindoline-1,3-dione | C1(CCCC1)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC=C2C1=O)=O | C23H25NO6S
